US04056568
61 grams (0.5 mole) of 3,5-xylenol dissolved in 250 cc glyme was added to 67 grams (0.5 mole) of sulfur monochloride dissolved in 200 cc glyme at room temperature. The temperature rose immediately to about 50° C. After 2 minutes, the reaction mixture was poured into 2400 grams of an aqueous solution of about 227 grams (3.4 moles) of sodium methyl mercaptide and 217 grams (5.4 moles) of sodium hydroxide. The mixture was then heated to its boiling point. After the glyme and dimethyl disulfide had boiled off, the mixture was acidified with concentrated hydrochloric acid to precipitate a pale yellow oil which crystallized rapidly to a colorless solid. A 93% yield of 4-mercapto-3,5-xylenol was obtained.

reactant | 3,5-xylenol | 0.5 mole, 61 grams | C1(=CC(=CC(=C1)C)C)O | C8H10O
reactant | sulfur monochloride | 0.5 mole, 67 grams | [S]Cl | ClS
reactant | sodium methyl mercaptide | 3.4 moles, about 227 grams | C[S-].[Na+]
reactant | sodium hydroxide | 5.4 moles, 217 grams | [OH-].[Na+]
reactant | dimethyl disulfide | CSSC | C2H6S2
reactant | hydrochloric acid | Cl | ClH
solvent | glyme | 250 cc | C(OC)COC | C4H10O2
solvent | glyme | 200 cc | C(OC)COC | C4H10O2
product | 4-mercapto-3,5-xylenol | 93% yield | SC1=C(C=C(C=C1C)O)C | C8H10OS
